US07615642B2
Step C. (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)piperidine-3-carboxylic acid
NaOH (2 mL, 2 M, 4.0 mmol) was added to a solution of ethyl (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)piperidine-3-carboxylate (1.4 g, 2.7 mmol) in 80 mL of MeOH—H2O (1:1) at ambient temperature. The reaction mixture was stirred overnight and diluted with water (80 mL). The solvent was concentrated to 80 mL. The resulting solution was neutralized with 2 N HCl. The product was extracted with EtOAc and dried over anhydrous Na2SO4. The solvent was concentrated to provide the title compound as white solid. Yield: 1.3 g (95%); 1H NMR (400 MHz, CDCl3) δ 1.24-1.27 (m, 1 H), 1527-1.39 (m, 1 H), 1.45-1.59 (m, 2 H), 1.62 (s, 9 H), 1.68 (s, 3 H), 1.70-1.86 (m, 4 H), 1.93-2.06 (m, 1 H), 2.08-2.25 (m, 2 H), 2.33 (t, J=12.11 Hz, 1 H), 2.46 (t, J=10.94 Hz, 1 H), 2.53-2.66 (m, 1 H), 3.69 (d, J=11.72 Hz, 1 H), 3.89 (d, J=9.96 Hz, 1 H), 4.31 (d, J=7.23 Hz, 2 H), 7.48 (d, J=8.79 Hz, 1 H), 7.67 (d, J=8.20 Hz, 1 H), 8.26 (s, 1 H); MS (ESI) (M+H)+=498.1.

reactant | NaOH | 4.0 mmol, 2 M, 2 mL | [OH-].[Na+]
reactant | ethyl (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)piperidine-3-carboxylate | 2.7 mmol, 1.4 g | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@H](CCC2)C(=O)OCC | C26H37F2N3O4S
solvent | MeOH—H2O | 80 mL | CO.O
solvent | water | 80 mL | O | H2O
product | (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)piperidine-3-carboxylic acid | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@H](CCC2)C(=O)O | C24H33F2N3O4S
